US09108977B2
To a suspension of 32.94 g of 2,2′-(3-chloro-1,2-phenylene)diacetonitrile in 100 ml of acetic acid was added dropwise 100 ml of a 33% hydrogen bromide-acetic acid solution over 1.5 hours while keeping the inner temperature at 20° C. or lower. The reaction mixture was stirred at room temperature for 3 hours, and then to the reaction mixture were added diethylether and acetone. The resulting candy-like dark brown solid substance and the suspension were separated, the suspension was concentrated under reduced pressure, and the candy-like substance was pulverized in acetone to obtain a suspension. The concentrated residue and the acetone suspension were combined and concentrated under reduced pressure, and to the residue was added EtOAc, followed by stirring. The solid was collected by filtration. The resulting solid was suspended in 400 ml of water which had been heated to 80° C., and 31.2 g of sodium acetate was added thereto, followed by stirring at 90° C. for 3 hours. The reaction mixture was cooled to room temperature and then the solid was collected by filtration to obtain 22.506 g of 6-chloro-1H-3-benzazepine-2,4(3H,5H)-dione as a brown solid.

reactant | 2,2′-(3-chloro-1,2-phenylene)diacetonitrile | 32.94 g | ClC=1C(=C(C=CC1)CC#N)CC#N | C10H7ClN2
reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | diethylether | C(C)OCC | C4H10O
reactant | acetone | CC(=O)C | C3H6O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-1H-3-benzazepine-2,4(3H,5H)-dione | 22.506 g | ClC1=CC=CC=2CC(NC(CC21)=O)=O | C10H8ClNO2
